US03991050
2-Ethyl-4,5-dimethoxybenzoic acid is esterified in methanol containing hydrochloric acid. The methyl ester is converted consecutively to methyl-α-(2-ethyl-4,5-dimethoxyacetophenone) sulphone, methyl-β-hydroxy-β-(2-ethyl-4,5-dimethoxyphenyl)ethyl sulphone, and β-anilino-α -(2-ethyl-4,5-dimethoxybenzyl) acrylonitrile according to Example 107. Following the procedure of Example 121 the β-anilino-α-(2-ethyl-4,5-dimethoxybenzyl) acrylonitrile is allowed to react with guanidine to give 2,4-diamino-5-(2'-ethyl-4',5'-dimethoxybenzyl)pyrimidine, m.p. 206°-207° C. after recrystallization from 60% to ethanol.

reactant | 2-Ethyl-4,5-dimethoxybenzoic acid | C(C)C1=C(C(=O)O)C=C(C(=C1)OC)OC | C11H14O4
reactant | hydrochloric acid | Cl | ClH
reactant | methyl-β-hydroxy-β-(2-ethyl-4,5-dimethoxyphenyl)ethyl sulphone | CC(CS(=O)(=O)CC(C)(O)C1=C(C=C(C(=C1)OC)OC)CC)(C1=C(C=C(C(=C1)OC)OC)CC)O | C26H38O8S
reactant | β-anilino-α -(2-ethyl-4,5-dimethoxybenzyl) acrylonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=C(C=C(C(=C1)OC)OC)CC | C20H22N2O2
reactant | guanidine | NC(=N)N | CH5N3
solvent | methanol | CO | CH4O
product | 2,4-diamino-5-(2'-ethyl-4',5'-dimethoxybenzyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=C(C=C(C(=C1)OC)OC)CC | C15H20N4O2
